US06353136B1
20 mmol of p-chlorotoluene (2.53 g), 24 mmol of diethylamine (1.75 g), 28 mmol of KOtBu (3.13 g), 4 mmol of lithium bromide (0.35 g) and 44 mg of trans-di-μ-acetatobis[2-[bis(1,1-dimethylethyl)phosphino]-2-methylpropyl-C,P]dipalladium(II) (0.3 mol %) are suspended in 50 ml of toluene and refluxed for 24 hours. After cooling to room temperature, the salts are filtered off and washed with petroleum ether. The solvents are removed from the filtrate on a rotary evaporator. Distillation via a bulb tube (100° C./12 torr) gives 4-(N,N-diethylamino)toluene as a colorless liquid in a yield of 91%.

reactant | p-chlorotoluene | 20 mmol, 2.53 g | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | diethylamine | 24 mmol, 1.75 g | C(C)NCC | C4H11N
reactant | KOtBu | 28 mmol, 3.13 g | CC(C)(C)[O-].[K+]
reactant | lithium bromide | 4 mmol, 0.35 g | [Br-].[Li+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(N,N-diethylamino)toluene | yield of 91% | C(C)N(CC)C1=CC=C(C=C1)C | C11H17N
